US06797726B1
In 8 mL of methylene chloride is dissolved 0.80 g of 2-[2-(6-methoxybenzo[b]thiophen-5-yl)ethoxy]-acetic acid, to which are added 1.38 mL of triethylamine and 0.22 g of imidazole. The mixture is cooled to 5° C., to which is dropwise added a mixture of 0.24 mL of thionyl chloride and 8 mL of methylene chloride. The resulting mixture is stirred at the same temperature as above for one hour. The reaction mixture is cooled to −60° C., 0.47 mL of triethylamine and 0.31 mL of 2-(methylamino)-ethanol are added thereto, and the resulting mixture is stirred at the same temperature as above for one hour and the at ambient temperature for 1.5 hours. Water is added to the reaction mixture, pH is adjusted to 1.0 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 0.93 g of N1-(2-hydroxyethyl)-N1-methyl-2-[2-(6-methoxybenzo[b]thiophen-5-yl)ethoxy]-acetamide is obtained as an oily product.

reactant | 2-[2-(6-methoxybenzo[b]thiophen-5-yl)ethoxy]-acetic acid | 0.80 g | COC=1C(=CC2=C(SC=C2)C1)CCOCC(=O)O | C13H14O4S
reactant | imidazole | 0.22 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 0.24 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(methylamino)-ethanol | 0.31 mL | CNCCO | C3H9NO
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | triethylamine | 0.47 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.38 mL | C(C)N(CC)CC | C6H15N
product | N1-(2-hydroxyethyl)-N1-methyl-2-[2-(6-methoxybenzo[b]thiophen-5-yl)ethoxy]-acetamide | 0.93 g | OCCN(C(COCCC1=CC2=C(SC=C2)C=C1OC)=O)C | C16H21NO4S
